US07435815B2
2-[(6-Amino-pyridin-3-yl)-(4-tert-butyl-benzenesulfonyl)-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(6-amino-pyridin-3-yl)-(4-tert-butyl-benzenesulfonyl)-amino]-acetic acid with ethyl-pyridin-2-ylmethyl-amine

reactant | [(6-amino-pyridin-3-yl)-(4-tert-butyl-benzenesulfonyl)-amino]-acetic acid | NC1=CC=C(C=N1)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)CC(=O)O | C17H21N3O4S
reactant | ethyl-pyridin-2-ylmethyl-amine | C(C)NCC1=NC=CC=C1 | C8H12N2
product | 2-[(6-Amino-pyridin-3-yl)-(4-tert-butyl-benzenesulfonyl)-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide | NC1=CC=C(C=N1)N(CC(=O)N(CC1=NC=CC=C1)CC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C25H31N5O3S
